data/oMe_Silver.jsonl
{"reaction_id": "NR-115_10-C(C)(C)C_1-C1CCCCC1_2-C(C)(C)C_3-c1scnc1_4-CC=C_5-C1CCCCC1_6-F_7-C_8-C1CCCCC1_9-c1ccccc1","level": "medium","name": "Ireland-Claisen Rearrangement","reactants_smiles": ["C(=C(c1scnc1)C(O/C(=C(/F)C)/O[Si](C1CCCCC1)(c1ccccc1)(C(C)(C)C))(C1CCCCC1)CC=C)(C1CCCCC1)C(C)(C)C"],"products_smiles": ["C(=C(c1scnc1)C(C(C(=O)O[Si](C1CCCCC1)(c1ccccc1)(C(C)(C)C))(C)F)(C1CCCCC1)CC=C)(C1CCCCC1)C(C)(C)C"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=C(c1scnc1)C(C(C(=O)O[Si](C1CCCCC1)(c1ccccc1)(C(C)(C)C))(C)F)(C1CCCCC1)CC=C)(C1CCCCC1)C(C)(C)C","step_weight": 0,"rationale": "Thermal activation enables a concerted [3,3]-sigmatropic shift via a six-membered transition state, favored by the stability of the resulting carbonyl and relief of allylic strain in the silyl ketene acetal."}],"description": "Upon heating, the silyl ketene acetal undergoes a [3,3]-sigmatropic Ireland–Claisen rearrangement, shifting the allyl group to form a new C–C bond adjacent to the carbonyl. The process is thermally allowed and driven by the formation of a more stable, conjugated carbonyl system."}
{"reaction_id": "NR-034_1-C(C)(C)C_2-C1CC1_3-c1ccc(N(=O)=O)cc1_4-CC","name": "Burgess Dehydration","level": "easy","reactants_smiles": ["C(C(C)(C)C)(C1CC1)(O)C(c1ccc(N(=O)=O)cc1)(CC)","COC(=O)[N-]S(=O)(=O)[N+](CC)(CC)CC"],"products_smiles": ["C(C(C)(C)C)(C1CC1)=C(c1ccc(N(=O)=O)cc1)(CC)"],"conditions": "Burgess Reagent (the second reactant)","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)[OH+](C(C(C)(C)C)(C1CC1)C(c1ccc(N(=O)=O)cc1)(CC))","rationale": "The electrophilic sulfur in the Burgess reagent is activated by electron-withdrawing sulfonyl and carbamate groups, allowing nucleophilic attack by the alcohol oxygen to form a sulfamate ester intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)OC(C(C)(C)C)(C1CC1)C(c1ccc(N(=O)=O)cc1)(CC)","rationale": "Proton transfer from the oxonium intermediate to the carbamate nitrogen neutralizes charge, stabilizing the intermediate and preparing the oxygen for elimination."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C(C)(C)C)(C1CC1)=C(c1ccc(N(=O)=O)cc1)(CC)","rationale": "The sulfamate group is an excellent leaving group due to resonance stabilization and electron-withdrawing substituents, enabling β-elimination to form the alkene under mild conditions."}],"description": "The Burgess reagent, a mild dehydrating agent, reacts with the alcohol to form a sulfamate ester intermediate. Under the reaction conditions, intramolecular elimination occurs, driven by the good leaving group ability of the sulfamate, yielding the alkene product under mild, non-acidic conditions."}
